US05849762
1-(3,3,3-triphenylpropyl)-4-(chlorophenyl)-4-piperidinemethanol;
1-(3,3,3-triphenylpropyl)-4-hydroxy-4-benzylpiperidine and 1-(3,3,3-triphenylpropyl)-4-hydroxy-4-benzylpiperidine hydrochloride;

reactant | 1-(3,3,3-triphenylpropyl)-4-hydroxy-4-benzylpiperidine | C1(=CC=CC=C1)C(CCN1CCC(CC1)(CC1=CC=CC=C1)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H35NO
reactant | 1-(3,3,3-triphenylpropyl)-4-hydroxy-4-benzylpiperidine hydrochloride | Cl.C1(=CC=CC=C1)C(CCN1CCC(CC1)(CC1=CC=CC=C1)O)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-(3,3,3-triphenylpropyl)-4-(chlorophenyl)-4-piperidinemethanol | C1(=CC=CC=C1)C(CCN1CCC(CC1)(CO)C1=C(C=CC=C1)Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H34ClNO
